US09315521B2
To a solution of (3,5-difluoropyridin-4-yl)methanol (3.5 mmol) in anhydrous chloroform (15 mL) was added dropwise a solution of phosphorus tribromide (330 μL, 3.5 mmol) in anhydrous chloroform (5 mL) at 0° C. The mixture was stirred for 6 hours at room temperature. Water was added, and the reaction was extracted 3 times with dichloromethane. The combined organic phases were washed with brine and dried over magnesium sulfate. After evaporation of the solvent, 4-(bromomethyl)-3,5-difluoropyridine was obtained as pale yellow solid (600 mg, 83% yield for 2 steps) and used in the next step without purification; 1H NMR (400 MHz, MeOd4): δ 4.59 (s, 2H), 8.42 (s, 2H).

reactant | (3,5-difluoropyridin-4-yl)methanol | 3.5 mmol | FC=1C=NC=C(C1CO)F | C6H5F2NO
reactant | phosphorus tribromide | 3.5 mmol, 330 μL | P(Br)(Br)Br | Br3P
reactant | Water | O | H2O
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(bromomethyl)-3,5-difluoropyridine | 83% yield | BrCC1=C(C=NC=C1F)F | C6H4BrF2N
